US09238639B2
Ethyl(6-(2-(2,6-dimethylpyridin-3-yl)ethyl)-1-benzothiophen-3-yl)acetate
A mixture of ethyl(6-((Z)-2-(2,6-dimethylpyridin-3-yl)vinyl)-1-benzothiophen-3-yl)acetate (110 mg), 10% Pd—C (50% wet, 50 mg) and THF (5 mL) was hydrogenated under atmospheric pressure for 30 min. The catalyst was removed by filtration. The filtrate was concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (90 mg).

reactant | ethyl(6-((Z)-2-(2,6-dimethylpyridin-3-yl)vinyl)-1-benzothiophen-3-yl)acetate | 110 mg | C(C)OC(CC1=CSC2=C1C=CC(=C2)\C=C/C=2C(=NC(=CC2)C)C)=O | C21H21NO2S
catalyst | Pd—C | 50 mg | [Pd] | Pd
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Ethyl(6-(2-(2,6-dimethylpyridin-3-yl)ethyl)-1-benzothiophen-3-yl)acetate | 90 mg | C(C)OC(CC1=CSC2=C1C=CC(=C2)CCC=2C(=NC(=CC2)C)C)=O | C21H23NO2S
